US04929613
4-(1,4-Dioxaspiro[4.4]non-7-yl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester.
A solution of 35.4 g (0.1 mol) of ethyl 2,5-difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)-β-oxobenzenepropanoic acid, ethyl ester 22.2 g (0.15 mol) triethyl orthoformate and 150 ml of acetic anhydride was heated at reflux for 4 hours. The solvent was removed in vacuo and the residue was triturated with ethanol and toluene (150 ml ea) which was also removed in vacuo, then high vacuo at 50°. The residue was used without further purification.

reactant | ethyl 2,5-difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)-β-oxobenzenepropanoic acid, ethyl ester | 0.1 mol, 35.4 g | C(C)C=1C(=C(C=C(C1C1CC2(OCCO2)CC1)F)C(CC(=O)OCC)=O)F | C20H24F2O5
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(1,4-Dioxaspiro[4.4]non-7-yl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | O1CCOC12CC(CC2)C2=CC(=C(C=C2F)C(C(C(=O)OCC)=COCC)=O)F | C21H24F2O6
